US06586423B2
(2-Amino-pyridin-4-yl)-methanol (8-4)
2-Amino-isonicotinic acid methyl ester (6.0 g, 39.4 mmol) was dissolved in 80 mL anhydrous THF in a flame dried round bottom flask under nitrogen gas. The solution was cooled to −45° C. and LAH (39.4 mL, 1M in THF) was added slowly. The reaction was allowed to warm to 0° C. and was quenched by the addition of 15 mL of 1M NaOH (aq). The solution was filtered and the solid was washed with THF. The filtrate was concentrated to afford the pure product. 1H NMR (DMSO-d6) δ7.79 (d, 1H, J=5.2 Hz), 6.41 (s, 1H), 6.38 (d, 1H, J=5.9 Hz), 5.79 (bs, 2H), 5.19 (t, 2H, J=5.7), 4.35 (d, 2H, J=5.6 Hz).

reactant | 2-Amino-isonicotinic acid methyl ester | 39.4 mmol, 6.0 g | COC(C1=CC(=NC=C1)N)=O | C7H8N2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (2-Amino-pyridin-4-yl)-methanol | NC1=NC=CC(=C1)CO | C6H8N2O
